US04343815
Di-t-butyltin chloride fluoride.
An ethereal solution of di-t-butyltin dichloride (10 g., 50 ml.) was shaken vigorously with a filtered solution of sodium fluoride (3 g.) in aqueous ethanol (50 ml.). The white solid formed at the interface, was filtered, and washed with 95% ethanol followed by ether (7.0 g., 74%); the solid turns light brown at 254° but does not melt. (Found: C, 33.4; H, 6.4; Cl, 9.2; F, 8.7; Sn, 43.3. C8H18ClFSn requires C, 33.45; H, 6.3; Cl, 12.25; F, 6.65; Sn, 41.3%.

reactant | di-t-butyltin dichloride | 50 ml, 10 g | C(C)(C)(C)[Sn](C(C)(C)C)(Cl)Cl
reactant | sodium fluoride | 3 g | [F-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Di-t-butyltin chloride fluoride | C(C)(C)(C)[Sn](C(C)(C)C)(F)Cl | InChI=1S/2C4H9.ClH.FH.Sn/c2*1-4(2)3;;;/h2*1-3H3;2*1H;/q;;;;+2/p-2
